US07202252B2
By the method of Example 2, phenylacetic acid is reacted with 5,6-diamino-1-[2-(3-carboxyphenyl)ethyl]-3-propyluracil to yield 8-benzyl-3-[2-(3-carboxyphenyl)ethyl]-1-propylxanthine. In turn, 5,6-diamino-1-[2-(3-carboxyphenyl)ethyl]-3-propyluracil is made by the synthetic methods of Example 1, starting with 3-carboxyphenethylamine.

reactant | phenylacetic acid | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | 5,6-diamino-1-[2-(3-carboxyphenyl)ethyl]-3-propyluracil | NC=1C(N(C(N(C1N)CCC1=CC(=CC=C1)C(=O)O)=O)CCC)=O | C16H20N4O4
product | 8-benzyl-3-[2-(3-carboxyphenyl)ethyl]-1-propylxanthine | C(C1=CC=CC=C1)C1=NC=2N(C(N(C(C2N1)=O)CCC)=O)CCC1=CC(=CC=C1)C(=O)O | C24H24N4O4
